US05998424
3-Trifluoromethyl-5-methyl-1-(4-methoxyphenyl)-1H-pyrazole
A mixture of 1,1,1-trifluoro-2,4-pentanedione (0.02 mol, 2.4 ML) and 4-methoxyphenyl hydrazine.HCl (4.54 g, 1.3 eq.) in 2 -methoxyethanol (100 mL) and acetic acid (30 mL) was refluxed for 6 h. The reaction mixture was evaporated and purified by flash chromatography on a silica gel column (400 g) eluted with 4:1 hexane:ethyl acetate to give 4.5 g of pure product (88%)

reactant | 1,1,1-trifluoro-2,4-pentanedione | 0.02 mol | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | 4-methoxyphenyl hydrazine.HCl | 4.54 g, 1.3 eq. | COC1=CC=C(C=C1)NN.Cl
solvent | 2 -methoxyethanol | 100 mL | COCCO | C3H8O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 3-Trifluoromethyl-5-methyl-1-(4-methoxyphenyl)-1H-pyrazole | 4.5 g, 88% | FC(C1=NN(C(=C1)C)C1=CC=C(C=C1)OC)(F)F | C12H11F3N2O
